US09334286B2
Preparation 111: 2-chloro-4-morpholinoaniline
A solution of 4-(3-chloro-4-nitrophenyl)morpholine (Preparation 112, 450 mg, 1.854 mmol) in EtOH/EtOAc (1:1, 30 mL) was passed through a 10% Pd/C cartridge using an H-cube (atmospheric H2, room temperature, 1 mL/min). The reaction mixture was concentrated in vacuo. The residue was purified by reverse phase column chromatography eluting with 0-20% MeCN in water to afford the title compound (150 mg, 38%).

reactant | 4-(3-chloro-4-nitrophenyl)morpholine | 1.854 mmol, 450 mg | ClC=1C=C(C=CC1[N+](=O)[O-])N1CCOCC1 | C10H11ClN2O3
solvent | EtOH EtOAc | 30 mL | CCO.CCOC(=O)C
catalyst | Pd/C | [Pd] | Pd
product | 2-chloro-4-morpholinoaniline | 150 mg, 38% | ClC1=C(N)C=CC(=C1)N1CCOCC1 | C10H13ClN2O
